US09107916B2
C. 2-[5-(4-bromophenyl)-1H-pyrazol-1-yl]pyridine-4-carboxylic acid
To a solution of 2-[5-(4-bromophenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile (100 mg, 0.31 mmol) in MeOH (4 mL) was added 10 N NaOH (4 mL), and the solution was heated under reflux conditions for 1 h. The solution was then cooled to 0° C. and the pH was adjusted to pH=2 by dropwise addition of 12 N HCl. The resulting precipitate was filtered to give the title compound (92 mg, 87%) as an off-white solid. 1H NMR (400 MHz, CD3OD): δ 6.64 (1H, s), 7.16 (2H, d, J=8.8 Hz), 7.48 (2H, d, J=8.8 Hz), 7.79 (1H, s), 7.84 (1H, d, J=8.4 Hz), 8.13 (1H, s), 8.42 (1H, d, J=8.4 Hz). [M+H] Calc'd for C15H10BrN3O2, 344. Found, 344.

reactant | 2-[5-(4-bromophenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 0.31 mmol, 100 mg | BrC1=CC=C(C=C1)C1=CC=NN1C1=NC=CC(=C1)C#N | C15H9BrN4
reactant | NaOH | 10 N, 4 mL | [OH-].[Na+]
reactant | HCl | 12 N | Cl | ClH
reactant | MeOH | 4 mL | CO | CH4O
product | 2-[5-(4-bromophenyl)-1H-pyrazol-1-yl]pyridine-4-carboxylic acid | 92 mg, 87% | BrC1=CC=C(C=C1)C1=CC=NN1C1=NC=CC(=C1)C(=O)O | C15H10BrN3O2
